US06951943B2
3-(4-Nitrophenyl)-2(S)-(3-oxo-7-oxaspiro[3.5]non-1-en-1ylamino)propionic acid ethyl ester
4-Nitro-(L)-phenylalanine ethyl ester hydrochloride (28.6 g) was suspended in dichloromethane (290 mL) to which a solution of potassium carbonate (8.0 g) in water (100 mL) was added slowly with stirring. After removal of the aqueous phase, the organic layer was washed with water (2×50 mL) and then dried (Na2SO4). Following removal of the drying agent, solid Intermediate 7 (16.1 g) was added portion-wise to the stirred dichloromethane solution. The resulting mixture was left to stir-out overnight at 20-25° C. under nitrogen. The solution was sequentially washed with 5% aqueous sodium bicarbonate (100 mL), and water (2×50 mL), then dried (Na2SO4) prior to solvent removal in vacuo which afforded the title compound as an off-white foam (38.6 g, 99.2% yield).

reactant | 4-Nitro-(L)-phenylalanine ethyl ester hydrochloride | 28.6 g | Cl.C(C)OC([C@@H](N)CC1=CC=C(C=C1)[N+](=O)[O-])=O
reactant | potassium carbonate | 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | dichloromethane | 290 mL | ClCCl | CH2Cl2
product | 3-(4-Nitrophenyl)-2(S)-(3-oxo-7-oxaspiro[3.5]non-1-en-1ylamino)propionic acid ethyl ester | 38.6 g, 99.2% yield | C(C)OC([C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC1=CC(C12CCOCC2)=O)=O | C19H22N2O6
